US06969724B2
(±)-cis-5-Allyloxy-7-[(4-phenylpiperidin-1-yl)methyl]-6,7,8,9-tetrahydro-5H-benzocycloheptene hydrochloride
0.2 g (0.596 mmol) of (±)-cis-7-[(4-phenylpiperdin-1-yl)methyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol dissolved in 5 ML THF were added dropwise to a suspension of 0.029 g (0.715 mmol) of NaH (60% dispersion in mineral oil) in 10 mL THF. After 30 min at room temperature, 0.12 mL of allyl bromide were added and the reaction mixture was refluxed 8 h. After cooling, the reaction mixture was quenched by addition of MeOH and the solvent was removed in vacuo. The residue was taken up in 1 N NaOH and extracted with CH2Cl2; the organic phase was dried and the solvent was removed in vacuo. The resulting crude product was purified by chromatography, eluting with a mixture CH2Cl2/MeOH 100:2 respectively, yielding an oil which was dissolved in Et2O; the solution was brought to acidic pH with Et2O/HCl and the solvent was removed in vacuo. The resulting solid was triturated with Et2O, yielding 65 mg of the title product. m.p. 126-128° C.

reactant | (±)-cis-7-[(4-phenylpiperdin-1-yl)methyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol | 0.596 mmol, 0.2 g | C1(=CC=CC=C1)C1CCN(CC1)C[C@H]1C[C@H](C2=C(CC1)C=CC=C2)O | C23H29NO
reactant | NaH | 0.715 mmol, 0.029 g | [H-].[Na+]
reactant | allyl bromide | 0.12 mL | C(C=C)Br | C3H5Br
reactant | Et2O HCl | CCOCC.Cl
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | (±)-cis-5-Allyloxy-7-[(4-phenylpiperidin-1-yl)methyl]-6,7,8,9-tetrahydro-5H-benzocycloheptene hydrochloride | 65 mg | Cl.C(C=C)O[C@@H]1C[C@@H](CCC2=C1C=CC=C2)CN2CCC(CC2)C2=CC=CC=C2 | InChI=1S/C26H33NO.ClH/c1-2-18-28-26-19-21(12-13-24-10-6-7-11-25(24)26)20-27-16-14-23(15-17-27)22-8-4-3-5-9-22;/h2-11,21,23,26H,1,12-20H2;1H/t21-,26-;/m1./s1
